US07655669B2
3-(1H-imidazol-1-yl)-5-(trifluoromethyl)-benzonitrile
The title compound is prepared using an analogous method as described in Example 1.1, utilising 3-fluoro-5-(trifluoromethyl)-benzonitrile (Lancaster Synthesis GmbH) and imidazole (Fluka, Buchs, Switzerland), with a reaction temperature of 110° C. for 24 hours.

reactant | 3-fluoro-5-(trifluoromethyl)-benzonitrile | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 3-(1H-imidazol-1-yl)-5-(trifluoromethyl)-benzonitrile | N1(C=NC=C1)C=1C=C(C#N)C=C(C1)C(F)(F)F | C11H6F3N3
